US08039472B2
2,2-Dimethoxypropane (1.94 ml, 15.8 mmol) and PPTS (0.079 mg, 0.32 mmol) are added to a solution of (S)-3-(4-Iodo-phenoxy)-propane-1,2-diol (0.93 g, 3.16 mmol) in DMF (20 ml), and the resulting solution is left to stir at room temperature overnight. The solvent is removed in vacuo and the residue is purified by chromatography (SiO2, EtOAc:Iso-hexane) to afford (R)-4-(4-Iodo-phenoxymethyl)-2,2-dimethyl-[1,3]dioxolane as a colourless oil.

reactant | 2,2-Dimethoxypropane | 15.8 mmol, 1.94 ml | COC(C)(C)OC | C5H12O2
reactant | PPTS | 0.32 mmol, 0.079 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | (S)-3-(4-Iodo-phenoxy)-propane-1,2-diol | 3.16 mmol, 0.93 g | IC1=CC=C(OC[C@H](CO)O)C=C1 | C9H11IO3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (R)-4-(4-Iodo-phenoxymethyl)-2,2-dimethyl-[1,3]dioxolane | IC1=CC=C(OC[C@H]2OC(OC2)(C)C)C=C1 | C12H15IO3
